US06759554B2
N-(3,5-Dimethylphenyl)indole (FIG. 12, Entry 3)
CuI (10 mg, 0.05 mmol), N,N-diethylsalicylamide (10 mg, 0.05 mmol), indole (176 mg, 1.5 mmol) and K3PO4 (425 mg, 2.0 mmol) were put into a screw-capped test tube with a Teflon-lined septum. The tube was then evacuated and backfilled with argon (3 cycles). 5-Bromo-m-xylene (136 μL, 1.0 mmol) was added by a syringe. The reaction mixture was stirred at 100° C. for 20 h. The reaction mixture was allowed to reach room temperature. Ethyl acetate (˜2 mL), water (˜10 mL), ammonium hydroxide (˜0.5 mL) and dodecane (227 μL) were added. The organic phase was analyzed by GC or GC-MS. The reaction mixture was further extracted by ethyl acetate (4×10 mL). The combined organic phases were washed with brine and dried over Na2SO4. Solvent was removed in vacuo and the yellow residue was purified by column chromatography on silica gel using hexane/ethyl acetate (10:1) as eluent to afford the desired product as a brown solid (196 mg, 89% yield).

reactant | indole | 1.5 mmol, 176 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | K3PO4 | 2.0 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-Bromo-m-xylene | 1.0 mmol, 136 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | ammonium hydroxide | ˜0.5 mL | [OH-].[NH4+]
reactant | dodecane | 227 μL | CCCCCCCCCCCC | C12H26
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
catalyst | N,N-diethylsalicylamide | 0.05 mmol, 10 mg | C(C)N(C(C=1C(O)=CC=CC1)=O)CC | C11H15NO2
solvent | water | ˜10 mL | O | H2O
solvent | Ethyl acetate | ˜2 mL | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dimethylphenyl)indole | 196 mg, 89% yield | CC=1C=C(C=C(C1)C)N1C=CC2=CC=CC=C12 | C16H15N
